US05663200
45c) 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-[(3,4-dimethoxyphenyl)methyl]dihydrofuran-2-(3H)-one
In analogy with Example 44c), 1 g of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]dihydrofuran-2-(3H)-one [Example 2b)] in 4 ml of abs. THF is deprotonated (-75° C.) with 6.42 ml of a 1M solution of lithium bis(trimethylsilyl)amide in THF, with the addition of 0.66 ml of DMPU, and alkylated with 911 mg of 3,4-dimethoxybenzyl iodide. Chromatography on silica gel (eluents D, C and J) gives the pure title compound. TLC Rf (C)=0.42. MS M+ =455.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]dihydrofuran-2-(3H)-one | 1 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C17H23NO4
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | DMPU | 0.66 ml | CN1CCCN(C1=O)C | C6H12N2O
reactant | 3,4-dimethoxybenzyl iodide | 911 mg | COC=1C=C(CI)C=CC1OC | C9H11IO2
solvent | THF | C1CCOC1 | C4H8O
product | 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-[(3,4-dimethoxyphenyl)methyl]dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC(=C(C=C1)OC)OC | C26H33NO6
